US09062015B2
FS102: 4-[6-(5,5-Dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]-piperazine-1-carboxylic acid tert-butyl ester
500 mg (1.46 mmol) of 4-(6-bromopyridin-2-yl)piperazine-1-carboxylic acid tert-butyl ester, 460 mg (1.61 mmol) of 2-(5,5-dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane and 620 mg (2.92 mmol) of tripotassium phosphate trihydrate are suspended in 10 ml of ethylene glycol monomethyl ether, degassed a number of times, and 82 mg (0.04 mmol) of bis(triphenylphosphine)palladium(II) dichloride are added under nitrogen atmosphere. The reaction mixture is treated in an ultrasound bath for 10 min, subsequently irradiated in the microwave at 100° C. for 90 min, 50 ml of water and 50 ml of ethyl acetate are added, and the mixture is filtered. The residue is discarded. The organic phase of the filtrate is separated off, and the aqueous phase is extracted three times with ethyl acetate. The combined organic phases are dried over Na2SO4 and evaporated. The crude product is purified by means of flash chromatography on silica gel.

reactant | 4-(6-bromopyridin-2-yl)piperazine-1-carboxylic acid tert-butyl ester | 1.46 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CC=C1)Br | C14H20BrN3O2
reactant | 2-(5,5-dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.61 mmol, 460 mg | CC1(C=2C=CC(=CC2CCC1)B1OC(C(O1)(C)C)(C)C)C | C18H27BO2
reactant | tripotassium phosphate trihydrate | 2.92 mmol, 620 mg | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 50 ml | O | H2O
solvent | ethylene glycol monomethyl ether | 10 ml | COCCO | C3H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.04 mmol, 82 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-[6-(5,5-Dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CC=C1)C1=CC=2CCCC(C2C=C1)(C)C | C26H35N3O2
